US04975438
As in Example 134, a solution of (E)-5,5-bis(3,4-dimethoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (4.9 g) and 3-pyridinebutanamine (1.5 g) in tetrahydrofuran (25 mL) was stirred for 17 hours at room temperature and was then worked up in the usual manner. The crude amide was crystallized from ethyl acetate-hexane to provide 3.6 g of (E)-5,5-bis(3,4-dimethoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 145°-146° C. Anal. Calculated for C30H34N2O5 : C, 71.69; H, 6.82; N, 5,57 Found: C, 71.33; H, 6.93; N, 5.72.

reactant | (E)-5,5-bis(3,4-dimethoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 4.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC(=C(C=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C27H25NO8
reactant | 3-pyridinebutanamine | 1.5 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(3,4-dimethoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 3.6 g | COC=1C=C(C=CC1OC)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC(=C(C=C1)OC)OC | C30H34N2O5
